US06596719B1
According to the procedure described in Example 4a) 20 mg 4-tert.-butyl-N-[6-(2-aminoethoxy)-5-(o-methoxyphenoxy)-2-(4-pyridyl)-4-pyrimidinyl]-benzene-sulfonamide was reacted with thiophene-2-sulfonylchloride to give 20 mg 4-tert.-butyl-N-[6-(2-(thiophene-2-sulfonylamino)-ethoxy)-5-(o-methoxyphenoxy)-2-(4-pyridyl)-4-pyrimidinyl]-benzene-sulfonamide. LC-MS: tR=5.17 min, [M+1]+=696.57.

reactant | 4-tert.-butyl-N-[6-(2-aminoethoxy)-5-(o-methoxyphenoxy)-2-(4-pyridyl)-4-pyrimidinyl]-benzene-sulfonamide | 20 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)OCCN)C1=CC=NC=C1 | C28H31N5O5S
reactant | thiophene-2-sulfonylchloride | S1C(=CC=C1)S(=O)(=O)Cl | C4H3ClO2S2
product | 4-tert.-butyl-N-[6-(2-(thiophene-2-sulfonylamino)-ethoxy)-5-(o-methoxyphenoxy)-2-(4-pyridyl)-4-pyrimidinyl]-benzene-sulfonamide | 20 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)OCCNS(=O)(=O)C=1SC=CC1)C1=CC=NC=C1 | C32H33N5O7S3
